US06599910B1
a) N-(4-Fluorobenzoyl)thiobenzamide
To a solution of 4-fluorobenzoylchloride (1.3 g, 8.5 mmol) in acetone (7.0 ml) was added a solution of thiobenzamide (1.16 g, 8.5 mmol) and pyridine (0.66 g, 8.5 mmol) in acetone (7.0 ml). The mixture was refluxed for 6 h. and cooled to room temperature. The reaction mixture was poured into water/ice and extracted with chloroform. Flash chromatography on silica gel afforded 0.5 g of the title compound as a red solid.

reactant | 4-fluorobenzoylchloride | 8.5 mmol, 1.3 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | thiobenzamide | 8.5 mmol, 1.16 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | pyridine | 8.5 mmol, 0.66 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 7.0 ml | CC(=O)C | C3H6O
solvent | acetone | 7.0 ml | CC(=O)C | C3H6O
product | N-(4-Fluorobenzoyl)thiobenzamide | 0.5 g | FC1=CC=C(C(=O)NC(C2=CC=CC=C2)=S)C=C1 | C14H10FNOS
